US07605169B2
Preparation of (±)-(1S,3R,4R)-3-hydroxy-N-[6-(methyloxy)-1,5-naphthyridin-4-yl]-4-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)cyclopentanecarboxamide
To a stirred solution of (±)-(1S,3R,4R)-3-(aminomethyl)-4-hydroxy-N-[6-(methyloxy)-1,5-naphthyridin-4-yl]cyclopentanecarboxamide (0.48 g, 1.51 mmole) in dry CH2Cl2 (50 mL) and dry EtOH (20 mL) at RT was added 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde (0.29 g, 1.51 mmole). After 24 h, at RT was added NaBH4 (0.063 g, 1.66 mmole). After 4 h, the reaction solution was concentrated under vacuum to a solid. Purification on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) afforded the title compound (0.13 g, 17%) as light yellow solid: 1H NMR (400 MHz, CDCl3) δ 9.44 (s, 1H), 8.68 (d, J=5.1 Hz, 1H), 8.49 (d, J=5.1 Hz, 1H), 8.22 (d, J=9.0 Hz, 1H), 7.59 (d, J=7.8 Hz, 1H), 7.16 (d, J=9.0 Hz, 1H), 6.96 (d, J=7.8 Hz, 1H), 4.12 (s, 3H), 3.92 (m, 3H), 3.49 (s, 2H), 3.38 (m, 1H), 2.95 (m, 2H), 2.39 (m, 1H), 2.50 (m, 4H), 1.91 (m, 1H). LC-MS (ES) m/e 495 (M+H)+.

reactant | (±)-(1S,3R,4R)-3-(aminomethyl)-4-hydroxy-N-[6-(methyloxy)-1,5-naphthyridin-4-yl]cyclopentanecarboxamide | 1.51 mmole, 0.48 g | NC[C@H]1C[C@@H](C[C@H]1O)C(=O)NC1=CC=NC2=CC=C(N=C12)OC | C16H20N4O3
reactant | 3-oxo-3,4-dihydro-2H-pyrido[1,4]thiazine-6-carboxaldehyde | 1.51 mmole, 0.29 g | O=C1CSC2=C(N1)N=C(C=C2)C=O | C8H6N2O2S
reactant | NaBH4 | 1.66 mmole, 0.063 g | [BH4-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 20 mL | CCO | C2H6O
product | (±)-(1S,3R,4R)-3-hydroxy-N-[6-(methyloxy)-1,5-naphthyridin-4-yl]-4-({[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}methyl)cyclopentanecarboxamide | 0.13 g, 17% | O[C@@H]1C[C@H](C[C@@H]1CNCC=1C=CC=2SCC(NC2N1)=O)C(=O)NC1=CC=NC2=CC=C(N=C12)OC | C24H26N6O4S
